US04600025
2-Methyl-5-(pyrrolidinocarbonyl)thiazole
A mixture of 15.42 g (0.0901 mole) of ethyl 2-methyl-5-thiazolecarboxylate and 12 g pyrrolidine was stirred at 120° C. under a nitrogen atmosphere for 36 hours to give 12.91 g of the title compound, m.p. 71-2°C. (78.6% yield with respect to the ester).

reactant | ethyl 2-methyl-5-thiazolecarboxylate | 0.0901 mole, 15.42 g | CC=1SC(=CN1)C(=O)OCC | C7H9NO2S
reactant | pyrrolidine | 12 g | N1CCCC1 | C4H9N
product | 2-Methyl-5-(pyrrolidinocarbonyl)thiazole | 12.91 g, 78.6% yield | CC=1SC(=CN1)C(=O)N1CCCC1 | C9H12N2OS
